US07030141B2
Step 1: 2-(4-Amino-3-fluoro-phenyl)-2H-pyridazin-3-one.
2-Fluoro-4-iodoaniline (0.5 g, 2.10 mmol) was combined with 2H-Pyridazin-3-one (0.243 g, 2.53 mmol), CuI (0.06 g, 0.315 mmol), K2CO3 (0.32 g, 2.31 mmol), and 8-hydroxyquinoline (0.046 g, 0.315 mmol) in DMSO (3 mL). The mixture was degassed with a stream of argon and then heated at reflux for 23 h before cooling to RT. 10% aq. NH4OH and EtOAc were added, and the mixture was filtered through a plug of layered celite and decolorizing charcoal, eluting with EtOAc. The filtrate was concentrated under reduced pressure. Purification of the crude product by mplc revealed A (0.16 g, 37% ) as a yellow solid. MS: APCI (AP+): 206.1 (M)+.

reactant | 2-Fluoro-4-iodoaniline | 2.10 mmol, 0.5 g | FC1=C(N)C=CC(=C1)I | C6H5FIN
reactant | 2H-Pyridazin-3-one | 2.53 mmol, 0.243 g | N=1NC(C=CC1)=O | C4H4N2O
reactant | K2CO3 | 2.31 mmol, 0.32 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 8-hydroxyquinoline | 0.315 mmol, 0.046 g | OC=1C=CC=C2C=CC=NC12 | C9H7NO
solvent | DMSO | 3 mL | CS(=O)C | C2H6OS
catalyst | CuI | 0.315 mmol, 0.06 g | [Cu]I
product | 2-(4-Amino-3-fluoro-phenyl)-2H-pyridazin-3-one | NC1=C(C=C(C=C1)N1N=CC=CC1=O)F | C10H8FN3O
